US08729102B2
I) N-[(1S)-2-({6-[6-(cyclopropylmethoxy)-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]acetamide
4M Hydrogen chloride/ethyl acetate (10 mL) was added dropwise to a solution of tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate (80 mg) in ethyl acetate (5 mL) at room temperature, and the reaction mixture was stirred at room temperature for 6 hr. The solvent was evaporated under reduced pressure, and the residue was dissolved in pyridine (10 mL), and acetic anhydride (0.026 mL) was added thereto at room temperature. The reaction mixture was stirred at room temperature for 2 hr, and the solvent was evaporated under reduced pressure. The residue was diluted with water, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated sodium hydrogen carbonate and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol) to give the title compound (49.3 mg).

reactant | Hydrogen chloride ethyl acetate | 4M, 10 mL | Cl.C(C)(=O)OCC
reactant | tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | 80 mg | C1(CC1)COC1=CC2=C(CC(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H32N2O5
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | N-[(1S)-2-({6-[6-(cyclopropylmethoxy)-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]acetamide | 49.3 mg | C1(CC1)COC1=CC2=C(CC(O2)C2=CC=C(C=N2)OC[C@H](C)NC(C)=O)C=C1 | C22H26N2O4
